US05312815
A mixture consisting of 1.6 g (3.9 mmol) of (+)-3-(6-chloropyridazin-3-ylthio)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol, 1.0 g (14.5 mmol) of 1,2,4-triazole, 1.0 g (7.2 mmol) of potassium carbonate, 2.2 g (14.7 mmol) of sodium iodide, and 20 ml of acetonitrile was heated at reflux for 116 hours. After allowing the mixture to cool, the solvent was removed by distillation under reduced pressure, and to the residue was added a saturated sodium chloride aqueous solution, followed by extraction with dichloromethane. The organic layer was washed successively with 10% sodium thiosulfate aqueous solution and a saturated sodium chloride aqueous solution and dried. The solvent was removed by distillation under reduced pressure, and the residue was subjected to column chromatography using a mixed solvent of chloroform and methanol (100:1). The solvent was removed by distillation under reduced pressure, and the residue was recrystallized from a mixed solvent of isopropyl ether and methanol to obtain 1.2 g (70%) of (+)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-3-(6-(1H-1,2,4-triazol-1-yl)pyridazin-3-ylthio)butan-2-ol as a colorless crystal.

reactant | (+)-3-(6-chloropyridazin-3-ylthio)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 3.9 mmol, 1.6 g | ClC1=CC=C(N=N1)SC(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(C)C | C17H16ClF2N5OS
reactant | 1,2,4-triazole | 14.5 mmol, 1.0 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 14.7 mmol, 2.2 g | [I-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (+)-2-(2,4-difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-3-(6-(1H-1,2,4-triazol-1-yl)pyridazin-3-ylthio)butan-2-ol | 1.2 g, 70% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C)(SC=1N=NC(=CC1)N1N=CN=C1)C)O | C19H18F2N8OS
